US04144248
p-Isobutylbenzaldehyde (486 mg) and 450 mg of formaldehyde dimethyl mercaptal S-oxide were dissolved in 1 ml of t-butanol, and 2.0 ml of a 0.608N t-butanol solution of potassium t-butoxide was added. The mixture was stirred at room temperature for 12 hours. Water (0.5 ml) and 50 ml of methylene chloride were added to the reaction mixture. The resulting mixture was dried over anhydrous sodium sulfate. The drying agent and the insoluble matter were removed by filtration, and the filtrate was concentrated under reduced pressure. The oily residue was chromatographed on a silica gel column using methylene chloride as an eluant to afford 701 mg of 1-methylsulfinyl-1-methylthio-2-(p-isobutylphenyl)ethylene in a yield of 87%. Samples for analysis were obtained by simple distillation of this product (at a bath temperature of 160° to 170° C./0.02 mmHg).

reactant | p-Isobutylbenzaldehyde | 486 mg | C(C(C)C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | formaldehyde dimethyl mercaptal S-oxide | 450 mg | CSCS(C)=O | C3H8OS2
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | Water | 0.5 ml | O | H2O
solvent | t-butanol | 1 ml | C(C)(C)(C)O | C4H10O
solvent | t-butanol | 0.608N | C(C)(C)(C)O | C4H10O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-methylsulfinyl-1-methylthio-2-(p-isobutylphenyl)ethylene | 701 mg, yield of 87% | CS(=O)C(=CC1=CC=C(C=C1)CC(C)C)SC | C14H20OS2
